US08461328B2
A stirred suspension of 4-chloro-7-azaindole (1.00 g, 6.55 mmol) in dichloromethane (DCM) (50 ml) was treated with 4-(dimethylamino)pyridine (80.0 mg, 0.66 mmol), triethylamine (1.36 ml, 9.83 mmol) and benzenesulfonyl chloride (0.93 ml, 7.21 mmol) at ambient temperature. The mixture was left to stand overnight and then diluted with DCM and washed with 1M aqueous HCl solution, saturated sodium hydrogen carbonate solution, water, and brine, dried with sodium sulfate and concentrated under vacuum to give crude product. Trituration (diethyl ether) afforded 1.59 g (83%) of 1-benzenesulfonyl-4-chloro-1H-pyrrolo[2,3-b]pyridine. LCMS (Method B, ESI): RT=4.48 min, m+H=293.3; 1H NMR (400 MHz, CDCl3) δ: 8.31 (d, 1H), 8.18 (m, 2H), 7.78 (m, 1H), 7.62-7.56 (m, 1H), 7.52-7.45 (m, 2H), 7.20 (m, 1H), 6.72 (m, 1H).

reactant | 4-chloro-7-azaindole | 6.55 mmol, 1.00 g | ClC1=C2C=CNC2=NC=C1 | C7H5ClN2
reactant | triethylamine | 9.83 mmol, 1.36 ml | C(C)N(CC)CC | C6H15N
reactant | benzenesulfonyl chloride | 7.21 mmol, 0.93 ml | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
catalyst | 4-(dimethylamino)pyridine | 0.66 mmol, 80.0 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 1-benzenesulfonyl-4-chloro-1H-pyrrolo[2,3-b]pyridine | 1.59 g, 83% | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=CC2Cl | C13H9ClN2O2S
